US05202318
To a stirred solution of 6-amino-5-chloro-2,3-dihydro-2-(piperidin-4-yl)-1H-benz[de]isoquinoline-1,3-dione hydrochloride (0.5 g; 1.37 mmol), prepared as in Example 10, and triethylamine (0.3 g; 3.0 mmol) in N,N-dimethylformamide (10 mL), was added allyl bromide (0.17 g; 1.4 mmol) in N,N-dimethylformamide (approximately 2 mL). The reaction mixture was stirred for 1.5 hours and the solvent removed. The residue was stirred with ammonium hydroxide and methylene chloride (50 mL). The aqueous layer was further extracted with methylene chloride (2×50 mL) and purification of the combined methylene chloride layers by column chromatography (silica gel; 3% methanol in CH2Cl2 and approximately 1% NH4OH) gave 6-amino-5-chloro-2,3-dihydro-2-(1-prop-2-enylpiperidin-4-yl)-1H-benz[de]isoquinoline-1,3-dione (0.1 g; 0.27 mmol), m.p. 279°-281° C.

reactant | 6-amino-5-chloro-2,3-dihydro-2-(piperidin-4-yl)-1H-benz[de]isoquinoline-1,3-dione hydrochloride | 1.37 mmol, 0.5 g | Cl.NC=1C(=CC=2C(N(C(C3=CC=CC1C23)=O)C2CCNCC2)=O)Cl
reactant | triethylamine | 3.0 mmol, 0.3 g | C(C)N(CC)CC | C6H15N
reactant | allyl bromide | 1.4 mmol, 0.17 g | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | approximately 2 mL | CN(C=O)C | C3H7NO
product | 6-amino-5-chloro-2,3-dihydro-2-(1-prop-2-enylpiperidin-4-yl)-1H-benz[de]isoquinoline-1,3-dione | 0.27 mmol, 0.1 g | NC=1C(=CC=2C(N(C(C3=CC=CC1C23)=O)C2CCN(CC2)CC=C)=O)Cl | C20H20ClN3O2
